US08426450B1
To a solution of 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-(4-methylpiperazin-1-yl)-4-(o-tolyl)pyridine 1-oxide (3 g, 5.05 mmol) and NaHCO3 (0.354 g, 12.66 mmol) in 60 mL of MeOH and 15 mL of H2O were added potassium monopersulfate triple salt (1.62 g, 26.25 mmol) at room temperature during 15 min. After stirring for 4 hrs at room temperature under N2 atmosphere, the reaction mixture was concentrated in vacuo and purified by flash chromatography (eluent: MeOH). The product was dissolved into DCM, the formed solid was filtered off, and the solution was concentrated under reduced pressure to afford 1.77 g 4-(5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-1-oxido-4-(o-tolyl)pyridin-2-yl)-1-methylpiperazine 1-oxide as a white solid (Yield: 57.4%). 1HNMR (CDCl3, 400 MHz) δ 8.06 (s, 1H), 7.78 (s, 1H), 7.60 (s, 2H), 7.37-7.20 (m, 4H), 6.81 (s, 1H), 3.89 (s, 2H), 3.74 (m, 4H), 3.31 (m, 5H), 2.48 (s, 3H), 2.18 (s, 3H), 1.36 (s, 6H).

reactant | 5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-2-(4-methylpiperazin-1-yl)-4-(o-tolyl)pyridine 1-oxide | 5.05 mmol, 3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=[N+](C1)[O-])N1CCN(CC1)C)C1=C(C=CC=C1)C)(C)C)(F)F | C30H32F6N4O2
reactant | NaHCO3 | 12.66 mmol, 0.354 g | C(=O)(O)[O-].[Na+]
reactant | potassium monopersulfate triple salt | 26.25 mmol, 1.62 g | OS(=O)(=O)[O-].OS(=O)(=O)O[O-].OS(=O)(=O)O[O-].[O-]S(=O)(=O)[O-].[K+].[K+].[K+].[K+].[K+]
solvent | MeOH | 60 mL | CO | CH4O
solvent | H2O | 15 mL | O | H2O
product | 4-(5-(2-(3,5-bis(trifluoromethyl)phenyl)-N,2-dimethylpropanamido)-1-oxido-4-(o-tolyl)pyridin-2-yl)-1-methylpiperazine 1-oxide | 1.77 g, Yield: 57.4% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=[N+](C1)[O-])N1CC[N+](CC1)(C)[O-])C1=C(C=CC=C1)C)(C)C)(F)F | C30H32F6N4O3
